US04514416
Synthesis of 4-amidino-2-nitrophenyl benzoate
Into 40 ml of dried pyridine, was dissolved 4.2 g of 4-amidino-2-nitrophenol methanesulfonate. To the solution, while being cooled in ice and stirred, was added portionwise 2.1 g of benzoyl chloride. The solution was stirred overnight at room temperature and removed of the insolubles by filtration. Ethyl ether was added to the filtrate to allow an oily substance to separate out. After removal of the supernatant, the oily substance was washed a few times with ethyl ether, and dissolved in water. To the aqueous solution, while being stirred, was added a saturated aqueous sodium hydrogencarbonate solution to precipitate the carbonate of the captioned compound. The carbonate precipitate was collected by filtration, washed with water, then with acetone, and dried to obtain 4.0 g of pale yellow crystals. To the carbonate crystals suspended in 10 ml of methanol, was added 1.4 g of methanesulfonic acid. The mixture turned, with effervescence, into a homogeneous solution. Upon addition of ethyl ether there were obtained 4.1 g of colorless granular crystals of 4-amidino-2-nitrophenyl benzoate methanesulfonate.

reactant | carbonate | C([O-])([O-])=O
reactant | methanesulfonic acid | 1.4 g | CS(=O)(=O)O | CH4O3S
reactant | ethyl ether | C(C)OCC | C4H10O
reactant | 4-amidino-2-nitrophenyl benzoate methanesulfonate | CS(=O)(=O)O.C(C1=CC=CC=C1)(=O)OC1=C(C=C(C=C1)C(N)=N)[N+](=O)[O-]
solvent | methanol | 10 ml | CO | CH4O
product | 4-amidino-2-nitrophenyl benzoate | 4.1 g | C(C1=CC=CC=C1)(=O)OC1=C(C=C(C=C1)C(N)=N)[N+](=O)[O-] | C14H11N3O4
